US05202351
To 1.01 g (4.33 mmol) of 2-(3,4-methylenedioxybenzyl)hexylamine, was added 9.2 ml of a hexane solution (0.47 mmol/l) of 2,6-diisopropylphenyl isocyanate and stirred for 3 hours. The reaction solution was concentrated and then purified by silica gel column chromatography (developed with hexane/ethyl acetate=2/1) to obtain 1.13 g of 1-(2-(3,4-methylenedioxybenzyl)hexyl)-3-(2,6-diisopropylphenyl)urea as amorphous solid (yield: 60%).

reactant | 2-(3,4-methylenedioxybenzyl)hexylamine | 4.33 mmol, 1.01 g | C1OC=2C=C(CC(CN)CCCC)C=CC2O1 | C14H21NO2
reactant | 2,6-diisopropylphenyl isocyanate | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | hexane | 0.47 mmol/l, 9.2 ml | CCCCCC | C6H14
product | 1-(2-(3,4-methylenedioxybenzyl)hexyl)-3-(2,6-diisopropylphenyl)urea | 1.13 g, yield: 60% | C1OC=2C=C(CC(CNC(=O)NC3=C(C=CC=C3C(C)C)C(C)C)CCCC)C=CC2O1 | C27H38N2O3
